US07592454B2
2-[(4-Fluorophenyl)sulfanyl]aniline (400 mg, 1.6 mmol) was stirred at 0° C. in conc. HCl (4.0 mL) and NaNO2 (130 mg, 1.8 mmol) was added slowly, maintaining 0° C. reaction temperature. After stirring for 1 hour at 0° C., a solution of SnCl2 (610 mg, 3.2 mmol) in 1.5 mL conc. HCl was added. The reaction was brought to rt and stirred for one h. Upon completion, the reaction was basified with 1N aqueous NaOH to pH 12. The reaction mixture was partition between water and CHCl3 and the aqueous layer extracted with CHCl3 (3×20 mL). The combined extracts were washed with brine (20 mL), H2O (20 mL) and dried (Na2SO4) and evaporated to a residue. The residue was taken up in a minimal amount of CHCl3 (10 mL) and 1N HCl-Ether (10 mL) was added. The solvent was evaporated affording 1-{2-[(4-fluorophenyl)sulfanyl]phenyl}hydrazine hydrochloride as a dark semi-solid (327 mg, 76%). 1H NMR (CD3OD, 300 MHz) δ 7.40-7.51 (m, 2H), 7.16-7.25 (m, 2H), 6.95-7.14 (m, 4H) ppm.

reactant | 2-[(4-Fluorophenyl)sulfanyl]aniline | 1.6 mmol, 400 mg | FC1=CC=C(C=C1)SC1=C(N)C=CC=C1 | C12H10FNS
reactant | NaNO2 | 1.8 mmol, 130 mg | N(=O)[O-].[Na+]
reactant | SnCl2 | 3.2 mmol, 610 mg | Cl[Sn]Cl
reactant | NaOH | 1N | [OH-].[Na+]
solvent | HCl | 4.0 mL | Cl | ClH
solvent | HCl | 1.5 mL | Cl | ClH
product | 1-{2-[(4-fluorophenyl)sulfanyl]phenyl}hydrazine hydrochloride | 327 mg, 76% | Cl.FC1=CC=C(C=C1)SC1=C(C=CC=C1)NN | InChI=1S/C12H11FN2S.ClH/c13-9-5-7-10(8-6-9)16-12-4-2-1-3-11(12)15-14;/h1-8,15H,14H2;1H
